US05104890
A solution of trans-4-amino-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile (5.0 g), methyl N-cyano-4-chlorobutyrimidate (7.36 g), triethylamine (4.8 ml), and toluene (12 ml) was stirred at 100° C. for 2 days. After being cooled to room temperature, the reaction mixture was concentrated. The residue was taken up in ethyl acetate and washed with brine, dried over anhydrous magnesium sulfate, and concentrated. After purification by column chromatography on silica gel (elution with chloroform-methanol 25:1), the crude product was further purified by recrystallization from ethyl acetate to give trans-4-(2-cyanoiminopyrrolidin-1-yl)-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile (0.87 g).

reactant | trans-4-amino-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile | 5.0 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | methyl N-cyano-4-chlorobutyrimidate | 7.36 g | C(#N)N=C(CCCCl)OC | C6H9ClN2O
reactant | triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | trans-4-(2-cyanoiminopyrrolidin-1-yl)-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile | 0.87 g | C(#N)N=C1N(CCC1)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C17H18N4O2
